US04001419
A solution of phenyl chloroformate (8 ml.) in methylene chloride (75 ml.) is added dropwise with stirring to a solution of 1'-methylxanthene-9-spiro-4'-piperidine (17.0 g.) in methylene chloride (200 ml.) at 5° C. The mixture is allowed to reach room temperature and stirred overnight. The mixture is washed successively with 3N sodium hydroxide solution, 3N hydrochloric acid and water, dried (MgS04) and the methylene chloride evaporated to dryness. The gummy residue is crystallised from methanol to give 1'-phenoxycarbonylxanthene-9-spiro-4'-piperidine, m.p. 105°-107° C.

reactant | phenyl chloroformate | 8 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 1'-methylxanthene-9-spiro-4'-piperidine | 17.0 g | CN1CCC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12 | C18H19NO
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1'-phenoxycarbonylxanthene-9-spiro-4'-piperidine | O(C1=CC=CC=C1)C(=O)N1CCC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12 | C24H21NO3
